US08735379B2
The methyl 2-hydroxy-5-(5Z,8Z,11Z,14Z)-icosa-5,8,11,14-tetraenamidobenzoate was then dissolved in THF (15 mL) and 3 N NaOH (5 mL). The mixture was heated (60° C., 2 h) and then concentrated and acified to pH 3 with 2 N HCl. The product was extracted with ethyl acetate, and the combined organic extracts were washed with brine and dried over MgSO4. The crude product was purified by silica chromatography (0-15% MeOH/CH2Cl2) to afford 0.3 g of as 2-hydroxy-5-(5Z,8Z,11Z,14Z)-icosa-5,8,11,14-tetraenamidobenzoic acid an orange solid. Mass calculated for C27H37NO4=439.59. found: [M−H]+=438.3.

reactant | methyl 2-hydroxy-5-(5Z,8Z,11Z,14Z)-icosa-5,8,11,14-tetraenamidobenzoate | OC1=C(C(=O)OC)C=C(C=C1)NC(CCC\C=C/C\C=C/C\C=C/C\C=C/CCCCC)=O | C28H39NO4
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | NaOH | 3 N, 5 mL | [OH-].[Na+]
product | 2-hydroxy-5-(5Z,8Z,11Z,14Z)-icosa-5,8,11,14-tetraenamidobenzoic acid | OC1=C(C(=O)O)C=C(C=C1)NC(CCC\C=C/C\C=C/C\C=C/C\C=C/CCCCC)=O | C27H37NO4
